US04783467
Ethyl N-(2-amino-5-iodo-3-methylbenzyl)glycinate
A mixture of freshly prepared ethyl glycinate (2.58 g), 2-amino-5-iodo-3-methylbenzaldehyde (4.03 g) and 3Å molecular sieves (2 g "Fluka A.G." [Trade Mark] article No. 69828) was heated with stirring under reflux in chloroform (50 cm3) for 4 hours. The cooled solution was filtered, evaporated in vacuo, and the residue taken into ethanol (30 cm3) and treated with sodium cyanoborohydride (1.43 g). After stirring for 72 hours ethanol was removed in vacuo and the residue was partitioned between chloroform (50 cm3) and aqueous ammonia (50 cm3, S.G. 0.88). The aqueous phase was further extracted with chloroform (2×100 cm3) and the combined organic extracts were dried (MgSO4) and evaporated to give the title compound as a crude oil, (2.5 g).

reactant | ethyl glycinate | 2.58 g | NCC(=O)OCC | C4H9NO2
reactant | 2-amino-5-iodo-3-methylbenzaldehyde | 4.03 g | NC1=C(C=O)C=C(C=C1C)I | C8H8INO
solvent | chloroform | 50 cm3 | C(Cl)(Cl)Cl | CHCl3
product | Ethyl N-(2-amino-5-iodo-3-methylbenzyl)glycinate | NC1=C(CNCC(=O)OCC)C=C(C=C1C)I | C12H17IN2O2
